US05037829
To a stirred mixture of 1.7 parts of ethyl [4-[(1H-imidazol-1-yl)phenylmethyl]-2-[(methylimino)methyl]phenyl]carbamate and 31.6 parts of ethanol were added 1 part of sodium tetrahydroborate (portionwise) and 55.3 parts of methanol. After stirring for 7 hours at 40°-50° C., the reaction mixture was evaporated. The residue was taken up in water (to which 0.29 parts of acetic acid were added) and the whole was basified with NH4OH. The product was extracted with dichloromethane and the extract was dried, filtered and evaporated. The residue was purified by column chromatography (silica gel; CHCl3 /CH3OH 95:5). The eluent of the desired fraction was evaporated and the residue was crystallized from ethyl acetate, yielding 0.3 parts (20.1%) of 3,4-dihydro-6-[(1H-imidazol-1-yl)phenylmethyl]-3-methyl-2(1H)-quinazolinone; mp. 173.8° C. (comp. 23).

reactant | ethyl [4-[(1H-imidazol-1-yl)phenylmethyl]-2-[(methylimino)methyl]phenyl]carbamate | N1(C=NC=C1)C(C1=CC(=C(C=C1)NC(OCC)=O)C=NC)C1=CC=CC=C1 | C21H22N4O2
reactant | ethanol | C(C)O | C2H6O
reactant | sodium tetrahydroborate | [BH4-].[Na+]
solvent | methanol | CO | CH4O
product | 3,4-dihydro-6-[(1H-imidazol-1-yl)phenylmethyl]-3-methyl-2(1H)-quinazolinone | 20.1% | N1(C=NC=C1)C(C=1C=C2CN(C(NC2=CC1)=O)C)C1=CC=CC=C1 | C19H18N4O
